US04167569
Cyanogen bromide (3.4 g.) in water (60 ml.) was added to 3,4-methylenedioxy-o-phenylenediamine (3.8 g.) in ethanol (60 ml.) to give 2-amino-5,6-methylenedioxybenzimidazole (4.4 g.) m.p. 230°-243° C.

reactant | Cyanogen bromide | 3.4 g | N#CBr | CBrN
reactant | 3,4-methylenedioxy-o-phenylenediamine | 3.8 g | C1OC=2C(=C(C=CC2O1)N)N | C7H8N2O2
reactant | water | 60 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-amino-5,6-methylenedioxybenzimidazole | 4.4 g | NC=1NC2=C(N1)C=C1C(=C2)OCO1 | C8H7N3O2
